US08633182B2
Step 1. 4-Nitro-N-(2-hydroxy-2-methyl-propyl)-3,5-dimethyl-benzamide
3,5-Dimethyl-4-nitrobenzoic acid (1 g, 5.12 mmol) is suspended in dry tetrahydrofuran (10 mL) and 1,1′-carbonyldiimidazole (0.91 g, 5.64 mmol) is added. The mixture is stirred for 3 hours then 1-amino-2-methyl-propan-2-ol (patent WO2010/84767, 1 g, 11.22 mmol) is added and the mixture stirred for 30 minutes. The solvent is removed, the residue suspended in EtOAc and washed with 0.2 M aqueous HCl solution, saturated sodium bicarbonate solution and brine, dried and the solvent removed under vacuum to give the title compound (Yield 1.2 g).

reactant | 3,5-Dimethyl-4-nitrobenzoic acid | 5.12 mmol, 1 g | CC=1C=C(C(=O)O)C=C(C1[N+](=O)[O-])C | C9H9NO4
reactant | 1,1′-carbonyldiimidazole | 5.64 mmol, 0.91 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-amino-2-methyl-propan-2-ol | 11.22 mmol, 1 g | NCC(C)(O)C | C4H11NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-Nitro-N-(2-hydroxy-2-methyl-propyl)-3,5-dimethyl-benzamide | Yield 1.2 g | [N+](=O)([O-])C1=C(C=C(C(=O)NCC(C)(C)O)C=C1C)C | C13H18N2O4
